US08048909B2
Ethyl 5-(4-fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Ethyl 5-(4-fluorophenyl)-2-methyl-1H-pyrrole-3-carboxylate (4.95 g) was dissolved in absolute tetrahydrofuran (50 mL), and sodium hydride (60% in oil, 1.20 g) was added under ice-cooling. The mixture was stirred at room temperature for 15 min, and benzenesulfonyl chloride (5.30 g) was added dropwise. The reaction mixture was stirred at room temperature for 18 hr, ice water was added and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:2) to give the title compound as a solid (yield 2.75 g, 35%).

reactant | Ethyl 5-(4-fluorophenyl)-2-methyl-1H-pyrrole-3-carboxylate | 4.95 g | FC1=CC=C(C=C1)C1=CC(=C(N1)C)C(=O)OCC | C14H14FNO2
reactant | sodium hydride | 1.20 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 5.30 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Ethyl 5-(4-fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 2.75 g, 35% | FC1=CC=C(C=C1)C1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)C(=O)OCC | C20H18FNO4S
